US08614328B2
A mixture of 3-(3-methoxy-benzyloxy)-phthalic acid (1.5 g, 5.2 mmol), alpha-amino-glutarimide hydrochloride (0.89 g, 5.4 mmol) in pyridine was refluxed overnight. The mixture was evaporated and the residue was purified by flash column chromatography (methanol/methylene chloride) to give 2-(2,6-dioxo-piperidin-3-yl)-4-(3-methoxy-benzyloxy)-isoindole-1,3-dione as a white solid (0.25 g, 12% yield); HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 60/40 CH3CN/0.1% H3PO4, 2.41 min (99.1%); mp, 197-201° C.: 1H NMR (DMSO-d6) δ 2.02-2.06 (m, 1H, CHH), 2.59-2.62 (m, 2H, CH2), 2.83-2.90 (m, 1H, CHH), 3.77 (s, 3H, CH3), 5.10 (dd, J=6, 12 Hz, 1H, CH), 5.35 (s, 2H, CH2), 6.89-7.85 (m, 7H, Ar), 11.11 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.95, 30.92, 48.75, 55.01, 69.80, 112.72, 113.27, 115.55, 116.66, 119.17, 120.21, 129.61, 133.25, 136.98, 137.74, 155.42, 159.35, 165.32, 166.77, 169.90, 172.74. Anal Calcd For C21H18N2O6+0.1H2O: C, 63.67; H, 4.63; N, 7.07. Found: C, 63.49; H, 4.40; N, 7.00.

reactant | 3-(3-methoxy-benzyloxy)-phthalic acid | 5.2 mmol, 1.5 g | COC=1C=C(COC2=C(C(C(=O)O)=CC=C2)C(=O)O)C=CC1 | C16H14O6
reactant | alpha-amino-glutarimide hydrochloride | 5.4 mmol, 0.89 g | Cl.NC1C(=O)NC(CC1)=O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-(2,6-dioxo-piperidin-3-yl)-4-(3-methoxy-benzyloxy)-isoindole-1,3-dione | 0.25 g, 12% yield | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)OCC1=CC(=CC=C1)OC)=O)=O | C21H18N2O6
